US08071631B2
3,4-Dimethoxy-N-[3-(phenyl)-1,2,4-triazol-5-yl]benzenesulfonamide
To a solution of 5-phenyl-4H-1,2,4-triazol-3-amine (354 mg, 2 mmol) in dry pyridine (10 mL) was added 3,4-dimethoxybenzenesulfonyl chloride (529 mg, 2.23 mmol). The solution was stirred at room temperature under Argon. After 48 h, the pyridine was removed in vacuo and flashed off with toluene. The residue was partitioned between CH2Cl2 and 1M NaOH. The organic phase was washed with 1M NaOH until no turbidity was observed on rectification of a small sample. The alkaline phase was made acidic (˜pH 3) with 1M HCl and extracted with CH2Cl2. After drying over Na2SO4, the solvent was removed in vacuo to give 0.47 g crude product. The crude product was dissolved in hot HOAc (22 mL), diluted with water (9 mL) and seeded. The product was collected by filtration, washed with water, then EtOH and dried in vacuo to give 361 mg of a granular white solid, mp 245-246° C.

reactant | 5-phenyl-4H-1,2,4-triazol-3-amine | 2 mmol, 354 mg | C1(=CC=CC=C1)C=1NC(=NN1)N | C8H8N4
reactant | 3,4-dimethoxybenzenesulfonyl chloride | 2.23 mmol, 529 mg | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | HOAc | 22 mL | CC(=O)O | C2H4O2
solvent | water | 9 mL | O | H2O
product | 3,4-Dimethoxy-N-[3-(phenyl)-1,2,4-triazol-5-yl]benzenesulfonamide | 361 mg | COC=1C=C(C=CC1OC)S(=O)(=O)NC1=NC(=NN1)C1=CC=CC=C1 | C16H16N4O4S
